US08471005B2
2-(4-{4-[7-(3-Hydroxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide
2-[4-(4-{7-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperidin-1-yl]-acetamide (100 mg, 0.175 mmol) was dissolved in tetrahydrofuran (10.0 mL, 123 mmol) and 1.00 M tetra-n-butylammonium fluoride in tetrahydrofuran (0.193 mL, 0.193 mmol) was added. The reaction was stirred at room temperature for 3 hours and was then concentrated under reduced pressure. The residue was taken up in DMSO (2 mL) and purified by prep-HPLC using a gradient of 0-55% AcN/water both containing 0.1% TFA as the eluting solvent. The product was then taken up in MeOH (30 mL) and MP-carbonate (1.2 g) and stirred for 2 hours. The reaction was then filtered and concentrated under reduced pressure to obtain the title compound as a yellow foam (31 mg, 39%). LCMS (m/e) 457 (M+H); 1H-NMR (d6-DMSO, 400 MHz) δ 9.42 (s, 1H), 8.97 (s, 1H), 8.18 (s, 1H), 7.98 (d, 1H, J=7.7 Hz), 7.71 (d, 2H, J=8.3 Hz), 7.54-7.46 (m, 1H), 7.38 (d, 1H, J=7.6 Hz), 7.28-7.08 (m, 5H), 6.95 (d, 1H, J=4.6 Hz), 5.31 (bs, 1H), 4.62 (s, 2H), 2.97-2.88 (m, 2H), 2.88 (s, 2H), 2.49-2.38 (m, 1H), 2.22-2.08 (m, 2H), 1.79-1.67 (m, 4H).

reactant | 2-[4-(4-{7-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperidin-1-yl]-acetamide | 0.175 mmol, 100 mg | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N)(C)C | C32H42N6O2Si
reactant | tetrahydrofuran | 123 mmol, 10.0 mL | O1CCCC1 | C4H8O
reactant | tetra-n-butylammonium fluoride | 1.00 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.193 mmol, 0.193 mL | O1CCCC1 | C4H8O
product | 2-(4-{4-[7-(3-Hydroxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide | 31 mg, 39% | OCC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N | C26H28N6O2
